US07560571B2
To 2.435 cm3 (15.84 mmol) of 2,4-dimethoxybenzylamine dissolved in 65 cm3 of toluene are added, at a temperature in the region of 20° C. under an argon atmosphere, 10.3 cm3 (20.59 mmol) of a 2M solution of trimethylaluminium in toluene, followed by addition of 1.95 g (7.92 mmol) of methyl 3-(4-nitrophenyl)-1H-pyrrole-2-carboxylate. After stirring for 1 hour at a temperature in the region of 20° C. and then for 16 hours at a temperature in the region of 60° C., the reaction mixture is diluted with 170 cm3 of ethyl acetate. The resulting solution is washed successively with three times 70 cm3 of saturated aqueous ammonium chloride solution and twice 50 cm3 of water and then dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give a yellow solid, which is then stirred in 20 cm3 of acetonitrile at a temperature in the region of 5° C. for 30 minutes. After filtering through a No. 3 sinter funnel, the solid is washed with 10 cm3 of ice-cold acetonitrile and then dried under reduced pressure (2.7 kPa) at a temperature in the region of 35° C. for 3 hours to give 1.96 g of 2-(2,4-dimethoxybenzylamino)carbonyl-3-(4-nitrophenyl)-1H-pyrrole in the form of a yellow solid; ES+: m/z=382: [M+H]+; ES−: m/z=380: [M−H]−.

reactant | 2,4-dimethoxybenzylamine | 15.84 mmol, 2.435 cm3 | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | trimethylaluminium | C[Al](C)C
reactant | methyl 3-(4-nitrophenyl)-1H-pyrrole-2-carboxylate | 7.92 mmol, 1.95 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(NC=C1)C(=O)OC | C12H10N2O4
solvent | toluene | 65 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 170 cm3 | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 cm3 | C(C)#N | C2H3N
product | 2-(2,4-dimethoxybenzylamino)carbonyl-3-(4-nitrophenyl)-1H-pyrrole | 1.96 g | COC1=C(CNC(=O)C=2NC=CC2C2=CC=C(C=C2)[N+](=O)[O-])C=CC(=C1)OC | C20H19N3O5
